US09302989B2
N-[4-(1-butyrylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting butyryl chloride for acetyl chloride and N-[4-(piperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.27 (s, 1H), 7.46-7.49 (m, 2H), 7.34-7.39 (m, 2H), 7.28-7.33 (m, 2H), 7.11-7.14 (m, 2H), 4.75-4.76 (bs, 4H), 4.52-4.57 (m, 1H), 3.94-4.00 (m, 1H), 3.03-3.11 (m, 1H), 2.64-2.75 (m, 1H), 2.51-2.63 (m, 1H), 2.31 (t, J=7.4 Hz, 2H), 1.73-1.81 (m, 2H), 1.47-1.59 (m, 3H), 1.32-1.47 (m, 1H), 0.85-0.95 (m, 3H); MS (ESI(+)) m/e 392 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-[4-(piperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H23N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-butyrylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(CCC)(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C24H29N3O2
